US07786046B2
1.3) Methyl 2-(4-fluoro-2-trifluoromethylbenzoylamino)-but-3-enoate
25 g (90.3 mmol) of 2-(4-fluoro-2-trifluoromethylbenzoylamino)but-3-enoic acid were dissolved in methanol, and 9.9 g (82.8 mmol) of thionyl chloride were added dropwise over a period of 30 min. The solution was stirred at RT for three days. Removal of the solvent gave 25.2 g of product (100% of theory) of the title compound as a colorless solid.

reactant | 2-(4-fluoro-2-trifluoromethylbenzoylamino)but-3-enoic acid | 90.3 mmol, 25 g | FC1=CC(=C(C(=O)NC(C(=O)O)C=C)C=C1)C(F)(F)F | C12H9F4NO3
reactant | thionyl chloride | 82.8 mmol, 9.9 g | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | CO | CH4O
product | Methyl 2-(4-fluoro-2-trifluoromethylbenzoylamino)-but-3-enoate | 25.2 g, 100% | FC1=CC(=C(C(=O)NC(C(=O)OC)C=C)C=C1)C(F)(F)F | C13H11F4NO3
